US06835469B2
2-Chloroquinoline (4.9 g, 30 mmol), 2-fluorophenylboronic acid (5.0 g, 36 mmol) and K2CO3 (12 g) were dissolved in the solvent mixture of 50 mL ethylene glycol dimethyl ether and 75 mL water. To the stirred solution was added 1.7 g tetrakis(triphenylphosphine)palladium(O) and the mixture refluxed under N2 for 20 hours. The reaction mixture was cooled and the water extracted with methylene chloride three times. The combined organic phase was washed with portions of brine. The organic layer was then dried with anhydrous sodium sulfate, filtered, and evaporated of solvent. The crude material was purified on a silica gel column to give 2-(2-fluorophenyl)quinoline (6.4 g, 96% yield).

reactant | 2-Chloroquinoline | 30 mmol, 4.9 g | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | 2-fluorophenylboronic acid | 36 mmol, 5.0 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | K2CO3 | 12 g | C(=O)([O-])[O-].[K+].[K+]
solvent | ethylene glycol dimethyl ether | 50 mL | COCCOC | C4H10O2
solvent | water | 75 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(O) | 1.7 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | 2-(2-fluorophenyl)quinoline | 6.4 g, 96% yield | FC1=C(C=CC=C1)C1=NC2=CC=CC=C2C=C1 | C15H10FN
